US07015328B2
7-Amino-3-cyano-4-(3,5-dimethoxyphenyl)-2-oxo-2H-chromene
The title compound was prepared from 3-aminophenol and 3-(3,5-dimethoxyphenyl)-2-cyano-acrylic acid ethyl ester by a procedure similar to that described for Example 16 in 0.5% yield. 1H NMR (CDCl3): 7.42 (d, J=8.4 Hz, 1H), 6.72 (d, J=2.4 Hz, 2H), 6.61-6.60 (m, 1H), 6.20 (d, J=2.1 Hz, 1H), 6.10 (dd, J=2.1, 8.7 Hz, 1H), 4.30 (brs, 2H), 3.83 (s, 6H).

reactant | 3-aminophenol | NC=1C=C(C=CC1)O | C6H7NO
reactant | 3-(3,5-dimethoxyphenyl)-2-cyano-acrylic acid ethyl ester | C(C)OC(C(=CC1=CC(=CC(=C1)OC)OC)C#N)=O | C14H15NO4
product | 7-Amino-3-cyano-4-(3,5-dimethoxyphenyl)-2-oxo-2H-chromene | 0.5% yield | NC1=CC=C2C(=C(C(OC2=C1)=O)C#N)C1=CC(=CC(=C1)OC)OC | C18H14N2O4
